US05272128
A: 3,5-Dimethylchlorobenzene
A total of 33.0 g of 3,5-dimethylaniline was added dropwise over 20 minutes to 200 ml of concentrated hydrochloric acid at such a rate that the temperature of the reaction was kept below 35° C. After several minutes of vigorous stirring, the reaction was cooled to -10° C. A solution of 19.7 g of sodium nitrite dissolved in 50 ml of water was added dropwise over 30 minutes at such a rate that the reaction temperature was kept between -12° C. to -16° C. Then, 3.0 g of copper (I) chloride was added and the reaction was warmed to 27° C. At this temperature foaming was noted and the reaction temperature was maintained below 35° C. with an ice water bath. After one hour, the reaction was poured onto 350 g of ice. Once the ice melted the crude product was extracted with 400 ml of hexanes, the organic phase was dried with magnesium sulfate, filtered, and concentrated to yield 20.2 g of a liquid. This material was diluted with 5 ml of hexanes and chromatographed on neutral alumina (Brockman 1, 150 mesh), eluting with 1200 ml of hexanes and collecting 200 ml fractions. The desired 95% pure intermediate, 10.1 g, was isolated cleanly in fractions 1 and 2.

reactant | 3,5-dimethylaniline | 33.0 g | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 19.7 g | N(=O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
catalyst | copper (I) chloride | 3.0 g | [Cu]Cl
product | 3,5-Dimethylchlorobenzene | 20.2 g | CC=1C=C(C=C(C1)C)Cl | C8H9Cl
